US09108936B2
Concentrated sulfuric acid (5 ml) is added to 2-ethylsulfanyl-6-methyl-4-[(3R)-3-methyl-morpholin-4-yl]-benzonitrile (0.11 g, 0.40 mmol) at RT and the resulting mixture is heated at 100° C. for 4 h. Upon completion (monitored by TLC), the reaction is slowly quenched with ice at 0° C. The mixture is basified with aqueous ammonia (pH=10). The aqueous part is extracted with ethyl acetate (3×10 ml). The combined organic layers are washed with water (10 ml), brine (10 ml), dried over anhydrous sodium sulfate and evaporated to get 2-ethylsulfanyl-6-methyl-4-[(3R)-3-methyl-morpholin-4-yl]-benzamide which is used in the next step without further purification (0.075 g, 0.26 mmol, 55%).

reactant | sulfuric acid | 5 ml | S(O)(O)(=O)=O | H2O4S
reactant | 2-ethylsulfanyl-6-methyl-4-[(3R)-3-methyl-morpholin-4-yl]-benzonitrile | 0.40 mmol, 0.11 g | C(C)SC1=C(C#N)C(=CC(=C1)N1[C@@H](COCC1)C)C | C15H20N2OS
product | 2-ethylsulfanyl-6-methyl-4-[(3R)-3-methyl-morpholin-4-yl]-benzamide | C(C)SC1=C(C(=O)N)C(=CC(=C1)N1[C@@H](COCC1)C)C | C15H22N2O2S
